US07964733B2
(b) 3-[(Methylsulfanyl)methyl]-2-phenylquinoline-4-carboxylic acid
To a solution of 3-(Bromomethyl)-2-phenylquinoline-4-carboxylic acid (650 mg, 1.9 mmol) in tetrahydrofuran (40 mL) was added sodium methanethiolate (400 mg, 5.7 mmol). The mixture was stirred overnight, concentrated, diluted with pH 4 buffer (40 mL) and ethyl acetate (40 mL), and extracted. The organic phase was dried (MgSO4), and concentrated to afford the desired product as a brown oil which was used without purification.

reactant | 3-(Bromomethyl)-2-phenylquinoline-4-carboxylic acid | 1.9 mmol, 650 mg | BrCC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C17H12BrNO2
reactant | sodium methanethiolate | 5.7 mmol, 400 mg | C[S-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 3-[(Methylsulfanyl)methyl]-2-phenylquinoline-4-carboxylic acid | CSCC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C18H15NO2S
